US06548677B1
Preparation of 3-(3,6-dibromo-2-methylphenyl)-4,5-dihydroisoxazole
68 g (0.23 mol) of 3,6-dibromo-2-methylbenzaldoxime are dissolved in 750 ml of methylene chloride in a pressure container. 20 g of ethylene are applied, and 620 g of a 12.5% strength solution of NaOCl are then pumped in at room temperature, and the mixture is stirred overnight. The pressure vessel is vented, and the organic phase is then separated off, washed once with 250 ml of water and dried, and the solvent is removed under reduced pressure. This gives 77 g of product (95% pure) (99% of theory).

reactant | 3,6-dibromo-2-methylbenzaldoxime | 0.23 mol, 68 g | BrC=1C(=C(C=NO)C(=CC1)Br)C | C8H7Br2NO
reactant | ethylene | 20 g | C=C | C2H4
reactant | NaOCl | [O-]Cl.[Na+]
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,6-dibromo-2-methylphenyl)-4,5-dihydroisoxazole | BrC=1C(=C(C(=CC1)Br)C1=NOCC1)C | C10H9Br2NO
